US06316485B1
To a mixture of (3-methoxyphenyl)hydrazine (6 g) and 3-[4-(methylthio)phenyl]acrylonitrile (5.7 g) in methanol (100 ml) was added sodium methoxide (28 wt. % solution in methanol) (18 ml) at ambient temperature. The mixture was heated to dryness under nitrogen at 140° C. for 30 minutes. The resultant orange mass was partitioned between dichloromethane and ice water. The organic layer was dried over magnesium sulfate, and then filtered. This filtrate was evaporated in vacuo. The resultant mass was dissolved in ethyl acetate (150 ml) and refluxed for 1 hour in the presence of magnesium (IV) oxide (20 g). This mixture was cooled, and filtered. The filtrate was evaporated in vacuo. The resultant mass was purified by column chromatography on silica gel using dichloromethane as eluent to give {1-(3-methoxyphenyl)-5-[4-(methylthio)-phenyl]pyrazol-3-yl}amine (5.2 g).

reactant | (3-methoxyphenyl)hydrazine | 6 g | COC=1C=C(C=CC1)NN | C7H10N2O
reactant | 3-[4-(methylthio)phenyl]acrylonitrile | 5.7 g | CSC1=CC=C(C=C1)C=CC#N | C10H9NS
reactant | sodium methoxide | 18 ml | C[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | {1-(3-methoxyphenyl)-5-[4-(methylthio)-phenyl]pyrazol-3-yl}amine | 5.2 g | COC=1C=C(C=CC1)N1N=C(C=C1C1=CC=C(C=C1)SC)N | C17H17N3OS
